US05389626
12(a) Diphenylmethyl 3-(3-cyanophenoxy)methyl-7-phenoxyacetamido-3-cephem-4-carboxylate
The procedure described in Example 1(a), was repeated, but using 2.00 g of diphenylmethyl 7-phenoxyacetamido-3-hydroxymethyl-3-cephem-4-carboxylate and m-cyanophenol, to afford 490 mg of the title compound as a powder.

reactant | diphenylmethyl 7-phenoxyacetamido-3-hydroxymethyl-3-cephem-4-carboxylate | 2.00 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O6S
reactant | m-cyanophenol | C(#N)C=1C=C(C=CC1)O | C7H5NO
product | Diphenylmethyl 3-(3-cyanophenoxy)methyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 490 mg | C(#N)C=1C=C(OCC=2CS[C@H]3N(C2C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C(C3NC(COC3=CC=CC=C3)=O)=O)C=CC1 | C36H29N3O6S
